US05153196
The foregoing methodology was followed starting with 2-chloro-6,7-difluoroquinoxaline. This compound (4.00 g, 19.9 mmol) was dissolved in 100 ml of absolute EtOH. Hydrazine (1.4 ml, 44 mmol) was added, and the mixture heated at reflux for 21/2 hours. The mixture was cooled and allowed to stand overnight before collecting the resulting precipitate, yielding 3.80 g of an orange, solid 2-hydrazino-6,7-difluoroquinoxaline. This product (3.8 g, 19.4 mmol) was stirred in 30 ml triethylorthoformate and heated at reflux (100° C.) for 5 hours. The resulting product was cooled to room temperature, filtered and dried, yielding 2.63 g of 7,8-difluoro-1,2,4-triazolo[4,3-a]quinoxaline (13).

reactant | 2-chloro-6,7-difluoroquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1)F)F | C8H3ClF2N2
reactant | Hydrazine | 44 mmol, 1.4 ml | NN | H4N2
solvent | EtOH | 100 ml | CCO | C2H6O
product | 2-hydrazino-6,7-difluoroquinoxaline | N(N)C1=NC2=CC(=C(C=C2N=C1)F)F | C8H6F2N4
